US04360511
In accordance with the procedure of example 4 p-iodoaniline and α-bromophenylacetamide were reacted to yield α-(p-iodoanilino)phenylacetamide, Rf =0.65.

reactant | p-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
reactant | α-bromophenylacetamide | BrC(C(=O)N)C1=CC=CC=C1 | C8H8BrNO
product | α-(p-iodoanilino)phenylacetamide | IC1=CC=C(NC(C(=O)N)C2=CC=CC=C2)C=C1 | C14H13IN2O
